US05693642
1-(2-Methoxyphenyl)-4-[3-(cyclohexyl)-3-(2-pyridinyl)propyl]piperazine
To a dry toluene (14 ml) solution of 1-(2-methoxyphenyl)-4-(3-pyridinylpropyl)piperazine (1.5 g, 4.82 mmol) under argon at 0° C. was added nBuLi (7.4 ml, 1.3M). After anion formation the solution was treated with cyclohexylbromide (1.18 ml, 9.64 mmol) in toluene (2.8 ml). The reaction mixture was allowed to attain room temperature and stirred overnight. The reaction mixture was treated with HCl (1N) and the organic layer discarded. The acid layer was washed with ether, taken to pH 13 with solid NaOH (cool) and extracted with chloroform.

reactant | 1-(2-methoxyphenyl)-4-(3-pyridinylpropyl)piperazine | 4.82 mmol, 1.5 g | COC1=C(C=CC=C1)N1CCN(CC1)CCCC1=NC=CC=C1 | C19H25N3O
reactant | nBuLi | 1.3M, 7.4 ml | [Li]CCCC
reactant | cyclohexylbromide | 9.64 mmol, 1.18 ml | C1(CCCCC1)Br | C6H11Br
reactant | HCl | 1N | Cl | ClH
solvent | toluene | 2.8 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 14 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-Methoxyphenyl)-4-[3-(cyclohexyl)-3-(2-pyridinyl)propyl]piperazine | COC1=C(C=CC=C1)N1CCN(CC1)CCC(C1=NC=CC=C1)C1CCCCC1 | C25H35N3O
